US05276049
1-[2-(4-Amidino-phenyl)-2-hydroxy-ethyl]-3-(3-methoxycarbonyl-propyl)-imidazolidin-2-one
Prepared by reduction of 1-[(4-amidino-phenyl)-carbonylmethyl]-3-(3-methoxycarbonyl-propyl)-imidazolidin-2-one hydrochloride with sodium borohydride in methanol at 0°-5° C.

reactant | 1-[(4-amidino-phenyl)-carbonylmethyl]-3-(3-methoxycarbonyl-propyl)-imidazolidin-2-one hydrochloride | Cl.C(N)(=N)C1=CC=C(C=C1)C(=O)CN1C(N(CC1)CCCC(=O)OC)=O
reactant | sodium borohydride | [BH4-].[Na+]
solvent | methanol | CO | CH4O
product | 1-[2-(4-Amidino-phenyl)-2-hydroxy-ethyl]-3-(3-methoxycarbonyl-propyl)-imidazolidin-2-one | C(N)(=N)C1=CC=C(C=C1)C(CN1C(N(CC1)CCCC(=O)OC)=O)O | C17H24N4O4
